US07485634B2
2-(1H-Indol-3-yl)-3-phenylacrylonitrile was prepared by the addition of 3-indolylacetonitrile (2.02 g, 12.9 mmol), MeOH (18 mL), benzaldehyde (1.60 mL, 15.5 mmol), and a 25% wt solution of sodium methoxide in MeOH (3.2 mL, 14.2 mmol) to a 50 mL flask. The solution was allowed to stir at ambient temperature under N2 for 16 h. The reaction solution was diluted with DCM (20 mL), molecular sieves (250 mg) were added, and the solution was allowed to reflux for 1 hour. The reaction was quenched with the addition of sat. NH4Cl (20 mL). The organic phase was partitioned, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was chromatographed (SiO2, 100% hexane to 5% EtOAc) to yield 1.4 g (44% yield) of 2-1H-indol-3-yl-3-phenyl-acrylonitrile; 1H NMR (CDCl3) δ 8.42 (1H, br s), 7.97 (1H, d), 7.87 (2H, m), 7.63 (1H, s), 7.60 (1H, d), 7.37-7.48 (4H, m), 7.25-7.33 (2H, m); TLC (SiO2 plate, 5:1 hexane/EtOAc) Rf=0.35; MS (ESI): 245 (MH+).

reactant | 3-indolylacetonitrile | 12.9 mmol, 2.02 g | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | MeOH | 18 mL | CO | CH4O
reactant | benzaldehyde | 15.5 mmol, 1.60 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium methoxide | C[O-].[Na+]
reactant | MeOH | 14.2 mmol, 3.2 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-1H-indol-3-yl-3-phenyl-acrylonitrile | 1.4 g, 44% yield | N1C=C(C2=CC=CC=C12)C(C#N)=CC1=CC=CC=C1 | C17H12N2
